US09388189B2
(S)-2-(1-((5-(6-Methoxypyridin-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(6-Methoxypyridin-2-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (17 mg, 0.02 mmol) was treated with trifluoroacetic acid (340 μl, 4.41 mmol), a solution of ammonia (7N in methanol, 340 μl, 2.38 mmol) in 370 μl methanol according to the method described in Example 27 to give 5 mg (59% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-((5-(6-Methoxypyridin-2-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.02 mmol, 17 mg | COC1=CC=CC(=N1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C33H38N8O3Si
reactant | trifluoroacetic acid | 4.41 mmol, 340 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 2.38 mmol, 7N, 340 μl | N | H3N
solvent | methanol | 370 μl | CO | CH4O
product | (S)-2-(1-((5-(6-Methoxypyridin-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 5 mg, 59% yield | COC1=CC=CC(=N1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C27H24N8O2
